US07342115B2
A mixture of 4-chloro-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester (165 mg, 0.5 mmol) and sodium methoxide (0.5 M in methanol, 4 mL, 2.0 mmol) is heated at 65° C. for 16 hours. The volatile material is removed in vacuo and the residue is partitioned between ethyl acetate (50 mL) and water (20 mL). The organic layer is separated and the aqueous layer is extracted with ethyl acetate (2×20 mL). The combined organic extract is dried and concentrated in vacuo. The crude product is purified by PTLC (hexanes/ethyl acetate 4:1) to give 6-(2,6-diethyl-phenyl)-4-methoxy-2-methyl-nicotinic acid methyl ester. 1H NMR: (CDCl3) 7.26 (m, 2H), 7.13 (d, 2H), 3.98 (s, 3H), 3.85 (s, 3H), 2.56 (s, 3H), 2.32 (m, 4H), 1.04 (t, 6H).

reactant | 4-chloro-6-(2,6-diethyl-phenyl)-2-methyl-nicotinic acid ethyl ester | 0.5 mmol, 165 mg | C(C)OC(C1=C(N=C(C=C1Cl)C1=C(C=CC=C1CC)CC)C)=O | C19H22ClNO2
reactant | sodium methoxide | 2.0 mmol, 0.5 M, 4 mL | C[O-].[Na+]
product | 6-(2,6-diethyl-phenyl)-4-methoxy-2-methyl-nicotinic acid methyl ester | COC(C1=C(N=C(C=C1OC)C1=C(C=CC=C1CC)CC)C)=O | C19H23NO3
